US04164407
Step D - 6-chloro-2-dimethylamino-4H-3,1-benzoxazine hydrobromide
2 g (0.008 M) of 2-bromomethyl-4-chlorophenylisocyanate is dissolved in 50 ml. of toluene. To the solution in a reaction vessel, is slowly added 0.36 g (0.008 M) of dimethylamine in 20 ml of toluene with stirring; maintaining the temperature of from 35° to 40° (over a period of about 6 hours) resulting in the separation of the crude title product as the hydrobromide acid addition salt, which may be recovered and refined by washing with diethyl ether m.p. 183°-186°.

reactant | 2-bromomethyl-4-chlorophenylisocyanate | 0.008 M, 2 g | BrCC1=C(C=CC(=C1)Cl)N=C=O | C8H5BrClNO
reactant | dimethylamine | 0.008 M, 0.36 g | CNC | C2H7N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-2-dimethylamino-4H-3,1-benzoxazine hydrobromide | Br.ClC=1C=CC2=C(COC(=N2)N(C)C)C1 | InChI=1S/C10H11ClN2O.BrH/c1-13(2)10-12-9-4-3-8(11)5-7(9)6-14-10;/h3-5H,6H2,1-2H3;1H
